US08981111B2
To a solution of 2-{6-[({[(1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione (11.27 g, 25.70 mmol, 1 eq.) in 500 ml of THF was added hydrazine hydrate (6.43 g, 128.52 mmol, 5 eq.). The reaction was stirred overnight at room temperature. The solvent was evaporated and the residue dissolved in EtOAc. Water was added and the layers separated. The aqueous layer was extracted with EtOAc and the organics were combined, dried over MgSO4 and concentrated to give 6-[({[(1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine (7.85 g, 99%) as a clear viscous oil.

reactant | 2-{6-[({[(1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 25.70 mmol, 11.27 g, 1 eq. | CN1N=CN=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C24H18N6O3
reactant | hydrazine hydrate | 128.52 mmol, 6.43 g, 5 eq. | O.NN
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 6-[({[(1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine | 7.85 g, 99% | CN1N=CN=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N | C16H16N6O
